US04701459
An alternate preparation of the title compound involves hydrogenating ethyl 1-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl]-4-piperidinecarboxylate (5.00 g, 13 mmol) in dimethylformamide (100 mL) over 10% palladium on charcoal (750 mg) at 60 p.s.i. in a low pressure hydrogenation apparatus. After 90 hours, the mixture was filtered through Kieselguhr, the solvent evaporated, and the residue added to ethanol (150 mL) and acetic acid (5 mL). The mixture was heated at refux for 2 hours before addition of 10% sodium carbonate. The resultant gray solid was added to methanol (150 mL), heated to reflux, iodine (1.86 g, 7.3 mmol) added portionwise, and reflux contonued for 2 hours. Upon cooling, 10% sodium thiosulfate and 10% sodium carbonate were added until pH=8. The precipitate was collected added to methanolic hydrochloric acid (120 mL), and heated at reflux for 20 hours. Upon cooling, 10% sodium carbonate was added until pH=8, and the gray solid collected, washed with H2O, methanol, and dried to afford methyl 1-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-4-piperidinecarboxylate (2.14 g, 50%). An analytical sample of the title product as a partial hydrate, m.p. >310° C., was prepared by crystallization from aqueous dimethylformamide.

reactant | ethyl 1-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl]-4-piperidinecarboxylate | 13 mmol, 5.00 g | O=C1NC(C(N1)=O)=CC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)C(=O)OCC | C18H20N4O6
reactant | iodine | 7.3 mmol, 1.86 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 750 mg | [Pd] | Pd
product | methyl 1-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-4-piperidinecarboxylate | 2.14 g, 50% | O=C1NC=2C(=NC=3C=CC(=CC3C2)N2CCC(CC2)C(=O)OC)N1 | C17H18N4O3
